US04698341
6.0 g (14.3 mmol) 1,4-dihydro-4-(3-chlorophenyl)-2-(2-dimethylamino ethenyl)-6-methyl pyridine-3,5-dicarboxylic acid diethyl ester are kept for six hours at boiling temperature in a mixture of 60 ml concentrated aqueous ammonia solution and 60 ml ethanol. After cooling, the solution is reduced to half the volume under vacuum. Water is added and the solution is extracted twice with chloroform. The chloroform solution is washed with a small amount of water and dried over sodium sulfate. The residue obtained after distilling off the solvent is chromatographed over silica gel with methylene chloride/methanol.ammonia (9:1, v/v) and recrystallized from methanol. There is obtained 1,4,5,6-tetrahydro-4-(3-chlorophenyl)-2-methyl-5-oxo-1,6-naphthyridine-3-carboxylic acid ethyl ester in form of beige crystals with a melting point of 152°-155° C. (decomposition).

reactant | 1,4-dihydro-4-(3-chlorophenyl)-2-(2-dimethylamino ethenyl)-6-methyl pyridine-3,5-dicarboxylic acid diethyl ester | 14.3 mmol, 6.0 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(=O)OCC)C)C=CN(C)C | C22H27ClN2O4
reactant | Water | O | H2O
solvent | ammonia | 60 ml | N | H3N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1,4,5,6-tetrahydro-4-(3-chlorophenyl)-2-methyl-5-oxo-1,6-naphthyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC=2C=CNC(C2C1C1=CC(=CC=C1)Cl)=O)C | C18H17ClN2O3
